US08471005B2
3-{3-[2-(7-Morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-propionitrile
Into a microwave vial, 3-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile (0.0964 g, 0.310 mmol), 7-Morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine (0.168 g, 0.683 mmol), 1-Methoxy-2-propanol (0.747 mL) and N,N-Diisopropylethylamine (0.119 mL) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded 3-{3-[2-(7-Morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-propionitrile as a yellow solid (35 mg, 23%). LCMS (E/I+) 493.20 (M+H). MP 184-186° C. NMR 1H (DMSO-d6)-9.34 (s, 1H), 8.97 (s, 1H), 8.18 (d, 1H, J=8.44 Hz), 8.02 (s, 1H), 7.56 (s, 1H), 7.97 (d, 2H, J=7.23 Hz), 7.35 (d, 1H, J=7.23 Hz), 7.18 (d, 1H, J=4.51 Hz), 7.05 (d, 1H, J=7.89), 6.95 (d, 1H, J=4.51 Hz), 3.54 (bs, 4H), 2.98 (t, 2H, J=7.32 Hz), 2.87 (t, 2H, J=7.04 Hz), 2.53-2.81 (m, 5H), 2.43-2.48 (m, 4H), 1.89-2.07 (m, 2H), 1.22-1.43 (m, 2H).

reactant | 3-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-propionitrile | 0.310 mmol, 0.0964 g | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)CCC#N | C16H14N4OS
reactant | 7-Morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine | 0.683 mmol, 0.168 g | N1(CCOCC1)C1CCC2=C(CC1)C=C(C=C2)N | C15H22N2O
reactant | 1-Methoxy-2-propanol | 0.747 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.119 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 3-{3-[2-(7-Morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-propionitrile | N1(CCOCC1)C1CCC2=C(CC1)C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C=1C=C(C=CC1)CCC#N | C30H32N6O
